US07361763B2
1.01 g (2.10 mmol) of 5-bromo-3-iodo-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine, 336 mg of 2-methoxyphenylboronic acid, and 75 mg of (1,1′-bis(diphenyl-phosphino)ferrocene)palladium(II)-dichloride dichloromethane adduct were placed in a Smith® vial and dissolved in a mixture of 15 ml of acetonitrile, 5 ml of toluene, and 7 ml of a saturated aqueous solution of sodium bicarbonate. The mixture was heated to 65° C. for 4 h and then cooled to room temperature. The crude was distributed between dichloromethane and water and the organic phase was dried over sodium sulfate and evaporated. The crude was then purified by flash chromatorgraphy on silica gel using a gradient of ethyl acetate in hexanes to afford 708 mg (1.53 mmol, 73%) of 5-bromo-3-(2-methoxy-phenyl)-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine as a yellow oil (containing about 20% of residual starting material as an inseparable mixture). 1H-NMR (d6-DMSO): δ8.33 (d, J=2.4 Hz, 1H), 8.15 (d, J=2.0 Hz, 1H), 7.76 (s, 1H), 7.55 (dd, J=1.3 Hz, 7.3 Hz, 1H), 7.33 (ddd, J=1.9 Hz, 7.3 Hz, 1H), 7.15 (dd, J=1.0 Hz, 8.3 Hz 1H), 7.06 (dt, J=1.0 Hz, 7.3 Hz, 1H), 3.82 (s, 3H), 1.88 (m, 3H), 1.10 (d, 18H).

reactant | 5-bromo-3-iodo-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | 2.10 mmol, 1.01 g | BrC=1C=C2C(=NC1)N(C=C2I)[Si](C(C)C)(C(C)C)C(C)C | C16H24BrIN2Si
reactant | 2-methoxyphenylboronic acid | 336 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | water | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-bromo-3-(2-methoxy-phenyl)-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | 1.53 mmol, 708 mg, 73% | BrC=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)[Si](C(C)C)(C(C)C)C(C)C | C23H31BrN2OSi
